US04294960
To acetic anhydride (32 g.) was added formic acid (14.4 g. ) under ice-coolind and stirred at 40° to 45° C. for an hour. 2-(2-Aminothiazol-4-yl)-2-cyclopentyloxyiminoacetic acid (syn isomer, 20 g.) and tetrahydrofuran (100 ml.) were added to the solution under ice-cooling and stirred at 35° C. for 3 hours. After the solution was concentrated in vacuo, the residue was pulverized with diisopropyl ether, and dried over phosphorus pentoxide to give 2-(2-formamidothiazol-4-yl)-2-cyclopentyloxyiminoacetic acid (syn isomer, 9.04 g.), mp. 158° C. (dec.).

reactant | acetic anhydride | 32 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 14.4 g | C(=O)O | CH2O2
reactant | 2-(2-Aminothiazol-4-yl)-2-cyclopentyloxyiminoacetic acid | 20 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CCCC1 | C10H13N3O3S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-formamidothiazol-4-yl)-2-cyclopentyloxyiminoacetic acid | 9.04 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1CCCC1 | C11H13N3O4S
